US07338973B2
11-methyl-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene-8-carboxylic acid
n-BuLi was added dropwise into 8-bromo-11-methyl-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene (420 mg, 1.338 mmoL) in THF (5 mL) at −78° C. After an additional 30 minutes, the reaction mixture was transferred into dry ice (˜10 g). The reaction mixture was then slowly warmed to room temperature. The solvent was removed and the residue was partitioned between EtOAc and 1 N NaOH solution. The aqueous layer was then acidified to a pH of about 2 using 1N HCl and extracted three times with EtOAc. The organic phase of each extraction was combined, washed with water, brine, dried over anhydrous Na2SO4, filtered and concentrated to yield a clear oil. The oil was then purified by column chromatography (silica gel, hexanes:EtOAc 1:1 as eluent) to yield the title compound as a white solid.

reactant | n-BuLi | [Li]CCCC
reactant | 8-bromo-11-methyl-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene | 420 mg | BrC=1C=C2C=3COC4=C(C3N(C2=CC1)C)C=CC=C4 | C16H12BrNO
reactant | dry ice | ˜10 g | C(=O)=O | CO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 11-methyl-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene-8-carboxylic acid | CN1C2=CC=C(C=C2C=2COC3=C(C12)C=CC=C3)C(=O)O | C17H13NO3
